US05612105
An autoclave was charged with 5.0 kg of ε-caprolactam, 9.5 kg of 12-aminododecanoic acid and 1.0 kg of water, the temperature was increased gradually to 260° C. and then the internal pressure was adjusted to 4 kg/cm2 2 hours thereafter. After 2 hours of reaction at 260° C., generated steam was gradually removed, and the pressure was adjusted to atmospheric pressure and then to a reduced pressure for 1.5 hours of reaction, thereby obtaining a nylon 6/12 polymer.

reactant | ε-caprolactam | 5.0 kg | C1(CCCCCN1)=O | C6H11NO
reactant | 12-aminododecanoic acid | 9.5 kg | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | water | 1.0 kg | O | H2O
product | nylon 6/12 | C(CCCCCC(=O)O)CCCCC(=O)O.C(CCCN)CCN | InChI=1S/C12H22O4.C6H16N2/c13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16;7-5-3-1-2-4-6-8/h1-10H2,(H,13,14)(H,15,16);1-8H2
